US09193935B2
2.10: 5-(3-Methyl-5-phenylpent-3-enyl)benzo[d][1,3]dioxole
Starting from phenethyltriphenylphosphonium bromide (1.82 g, 4.07 mmol, 1.0 equiv.), n-BuLi (1.6 M in hexanes, 2.6 mL, 4.07 mmol, 1.0 equiv.) and 4-(benzo[d][1,3]dioxol-5-yl)butan-2-one (1.17 g, 6.10 mmol, 1.5 equiv.), 0.35 g (30%) of the title compound as a colorless oil was obtained after purification by flash chromatography on SiO2 (cyclohexane/EtOAc 99:1).

reactant | phenethyltriphenylphosphonium bromide | 4.07 mmol, 1.82 g, 1.0 equiv. | [Br-].C(CC1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-BuLi | 4.07 mmol, 1.6 M, 2.6 mL, 1.0 equiv. | [Li]CCCC
reactant | 4-(benzo[d][1,3]dioxol-5-yl)butan-2-one | 6.10 mmol, 1.17 g, 1.5 equiv. | O1COC2=C1C=CC(=C2)CCC(C)=O | C11H12O3
product | 5-(3-Methyl-5-phenylpent-3-enyl)benzo[d][1,3]dioxole | 0.35 g, 30% | CC(CCC1=CC2=C(OCO2)C=C1)=CCC1=CC=CC=C1 | C19H20O2
